US05550125
2.4. (±)-6-Fluoro-3,4-dihydro-2H-1,4-benzoxazine-3-ethanol.
145 ml of tetrahydrofuran are introduced into a 1 l reactor which is cooled with a mixture of ice and salt, and, under an argon atmosphere, 5.9 g (0.153 mol) of lithium aluminium hydride are added, followed by dropwise addition of 23.22 g (0.097 mol) of ethyl (±)-6-fluoro-3,4-dihydro-2H-1,4-benzoxazine-3-acetate dissolved in 145 ml of tetrahydrofuran, and the mixture is stirred for 2.5 h. The reactor is cooled with a mixture of cardice and acetone, 45 ml of water and 23 ml of 1N sodium hydroxide are added dropwise and stirring is continued for 0.5 h.

reactant | lithium aluminium hydride | 0.153 mol, 5.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl (±)-6-fluoro-3,4-dihydro-2H-1,4-benzoxazine-3-acetate | 0.097 mol, 23.22 g | FC=1C=CC2=C(NC(CO2)CC(=O)OCC)C1 | C12H14FNO3
reactant | cardice | C(=O)=O | CO2
reactant | sodium hydroxide | 1N, 23 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 145 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 145 ml | O1CCCC1 | C4H8O
solvent | water | 45 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | (±)-6-Fluoro-3,4-dihydro-2H-1,4-benzoxazine-3-ethanol | FC=1C=CC2=C(NC(CO2)CCO)C1 | C10H12FNO2
